US04055595
A mixture of the impure ester fraction from the previous example (fraction A) of (±)-methyl 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-methylpropionate (15.7 g.), potassium hydroxide (3.0 g.), methanol (300 ml.) and water (30 ml.) is stirred at ambient temperature for 18 hours. The suspension is filtered, and the filtrate is evaporated. The residue is mixed with water, and the mixture is washed with ether. The aqueous phase is acidified with concentrated hydrochloric acid then extracted with ether. The extract is dried with sodium sulphate and evaporated. The residue is crystallised from cyclohexane and from a mixture of toluene and light petroleum (b.p. 60°-80° C.) to give (±)-2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-methylpropionic acid, m.p. 135°-136° C. (5.7 g.). The above process is repeated with (±)-methyl 2-(4-chloro-1-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionate obtained as an oil in Example 16, to give (±)-2-(4-chloro-1-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionic acid, m.p. 120°-121° C. (11.1 g.).

reactant | (±)-methyl 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-methylpropionate | 15.7 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)OC)(C(F)(F)F)C)C=C1 | C18H16ClF3O3
reactant | potassium hydroxide | 3.0 g | [OH-].[K+]
reactant | methanol | 300 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | (±)-2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-methylpropionic acid | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)O)(C(F)(F)F)C)C=C1 | C17H14ClF3O3
